US04282245
To a mixture of 40 mg of methyl 2-(10,11-dihydro-8-nitro-11-oxodibenzo[b,f]thiepin-2-yl)-propionate and 3 ml of acetone was added a small amount of 10% palladium carbon, and the resulting mixture was subjected to catalytic reduction. The reaction mixture was filtrated with a suction using cerite to remove the catalysts. The solvent was removed by distillation to obtain a yellow oil, which was chromatographed over 2 g of silica gel and eluted with chloroform, thereby obtaining 13 mg (yield: 36%) of methyl 2-(8-amino-10,11-dihydro-11-oxodibenzo[b,f]thiepin-2-yl)-propionate as a yellow oil.

reactant | methyl 2-(10,11-dihydro-8-nitro-11-oxodibenzo[b,f]thiepin-2-yl)-propionate | 40 mg | [N+](=O)([O-])C=1C=CC2=C(CC(C3=C(S2)C=CC(=C3)C(C(=O)OC)C)=O)C1 | C18H15NO5S
catalyst | palladium carbon | [C].[Pd]
solvent | acetone | 3 ml | CC(=O)C | C3H6O
product | methyl 2-(8-amino-10,11-dihydro-11-oxodibenzo[b,f]thiepin-2-yl)-propionate | 13 mg, yield: 36% | NC=1C=CC2=C(CC(C3=C(S2)C=CC(=C3)C(C(=O)OC)C)=O)C1 | C18H17NO3S
